Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history noted below who presents with weight loss, inguinal LAD,
and sclerotic lesions noted on CT torso.  He is directly 
admitted
from ___ clinic; history is obtained from the patient.

Per patient, his presentation dates back to early ___ when
he developed b/l hip pain after a fall and bumping his hip
against the doorknob.  He tried to treat this supportively at
home (APAP, topical lotions, THC drops) with only mild relief. 
Due to worsening pain, he saw his PCP, ___, on ___.  At
that visit, he was noted to have a 20 lb weight loss,
unintentionally, over the past year.  The patient also endorsed
night sweats at that time.  On exam during that visit, he was
noted to have cervical and inguinal LAD.  He was scheduled for a
CT torso given concern for malignancy in light of the findings
and his tobacco use. 

He underwent a CT torso on ___ which demonstrated multiple lytic
and sclerotic lesions in the ribs and vertebrae, concerning for
mets from an unknown primary.  He was set up urgently with the
___ clinic today for possible bone marrow bx.

At the ___ clinic, labs were checked which came back with a
PSA>1000.  Other labs were also notable for bony involvement 
with
increased AST, Alk Phos, Calcium.  CEA was 6.8 and TP was 8.4,
uric acid was normal.  He received 10 mg total of oxycodone.  He
was referred to ___ for direct admission for pain control and
expedited work up.

Currently, he is comfortable but reports ___ low back and hip
pain. No other new symptoms - no weakness, numbness, LOS, or
tingling.  Last BM this AM but feels constipated. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
HL
Depression
Tobacco use
Colonic polyps per scope ___

 
Social History:
___
Family History:
Significant for father who passed away from
prostate CA; sister and brother also passed away from cancer 
NOS.
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.8, BP 103/66, HR 87, RR 18, SaO2 99/RA
GENERAL: Cachectic man in NAD, alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, MMM.
LYMPH: +matted, tender inguinal LAD b/l; few anterior cervical
nodes on the right side of the neck; no other LAD appreciated
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen scaphoid, non-distended, non-tender to palpation. 
Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
GENERAL: Cachectic man in NAD, alert and in no apparent distress
LYMPH: +matted, tender inguinal LAD b/l; few anterior cervical
nodes on the right side of the neck; no other LAD appreciated
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: easy WOB, CTAB, no w/r/r
GI: Abdomen scaphoid, non-distended, non-tender to palpation. 
Bowel sounds present.  No HSM
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 10:44AM   WBC-6.4 RBC-4.43* HGB-12.3* HCT-38.3* MCV-87 
MCH-27.8 MCHC-32.1 RDW-13.5 RDWSD-42.0
___ 10:44AM   NEUTS-73.0* ___ MONOS-5.8 EOS-0.8* 
BASOS-0.3 IM ___ AbsNeut-4.64 AbsLymp-1.24 AbsMono-0.37 
AbsEos-0.05 AbsBaso-0.02
___ 10:44AM   PLT COUNT-337
___ 10:44AM   UREA N-12 CREAT-0.9 SODIUM-137 POTASSIUM-4.5 
CHLORIDE-102 TOTAL CO2-24 ANION GAP-11
___ 10:44AM   ALT(SGPT)-10 AST(SGOT)-76* LD(LDH)-510* ALK 
PHOS-589* TOT BILI-0.5
___ 10:44AM   TOT PROT-8.4* ALBUMIN-4.0 GLOBULIN-4.4* 
CALCIUM-10.8* URIC ACID-5.8
___ 10:44AM   CEA-6.8*
___ 10:44AM   b2micro-2.6*
___ 02:39PM   LD(LDH)-306* ALK PHOS-535*
___ 02:39PM   GGT-34
___ 02:39PM   TOT PROT-7.7
___ 02:39PM   PSA-1039*
___ 02:39PM   PEP-NO SPECIFI Free K-16.2 Free ___ Fr 
K/L-1.2 IgG-1338 IgA-359 IgM-___ yo M PMHx HL, depression, tobacco use who presents from 
___ for pain management in setting of suspected new 
metastatic prostate CA.

ACUTE/ACTIVE PROBLEMS:
# Metastatic cancer, concern for prostate
# Hip pain
# Bony lesions
# Weight loss, unintentional
# Severe protein, calorie malnutrition
# Peripheral Lymphadenopathy
The patient's presentation, clinical findings, imaging and labs 
(notably
PSA>1000) concerning for metastatic prostate CA.  He was sent to 
ED from Oncology appointment for pain control.  While 
hospitalized, he was started on oxycodone, Tylenol and lidocaine 
patch with improvement in his symptoms.  Oncology was consulted 
and recommended initiation of Bicalutamide.  Follow-up was 
arranged with Oncology for further management.  He was seen by 
Nutrition who recommended supplements.  Consider increase in 
mirtazapine to stimulate appetite in future.

# LUL opacity - seen on CT chest, PCP aware per documentation in
OMR, needs 3 month f/u scan

# Hypercalcemia - mild at 10.8 and improved with IVF.  Likely 
___ metastatic bone involvement.

CHRONIC/STABLE PROBLEMS:
# HL - not on medications, monitor
# Depression - sees a therapist

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen Dose is Unknown  PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Lidocaine 5% Patch 1 PTCH TD QPM  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  
5.  Senna 8.6 mg PO BID  
6.  Acetaminophen 1000 mg PO TID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Suspected prostate cancer
Lytic bone lesions
Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for pain control.  You were 
started on a new medication called oxycodone for the pain.  This 
medication can cause sleepiness and suppress your drive to 
breathe if too much is taken at any one time.  It can also be 
"habit-forming."  Please take as directed and only as needed.

The Oncology team (cancer doctors) also wanted to start you on a 
new medication called Bicalutamide to help with your pain and 
with control of your suspected cancer.  Please pick up this 
medication at your pharmacy.  

Follow-up up with your Oncologist (cancer doctor) and PCP for 
further management and work-up of your suspected prostate 
cancer.

It was a pleasure taking care of you at ___ Team
 
Followup Instructions:
___